US07122543B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoate (1.20 g, 2.7459 mmol) was dissolved in a mixed solution of a 1N aqueous solution of sodium hydroxide (13.7 ml) and 1,4-dioxane (30 ml) followed by stirring at room temperature for 16 hours. The reaction solution was diluted with water (200 ml), washed with ether, acidified with concentrated hydrochloric acid and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom to give the title compound (1.02 g, 2.4113 mmol, 88%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoate | 2.7459 mmol, 1.20 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C25H27NO6
solvent | sodium hydroxide | 13.7 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid | 2.4113 mmol, 1.02 g, 88% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
